US09303023B2
To a round-bottom flask tert. butyl(2-(4-nitro-1H-pyrazol-1-yl)ethyl)carbamate (7.88 g, 30.75 mmol), Pd/C (10%, 788 mg) and MeOH (130 mL, degassed) was added. The flask was evacuated and backfilled with H2 and the reaction mixture was stirred under H2-atmosphere at rt for 18 h. The reaction mixture was filtered over celite, washed with MeOH and the solvent was removed under reduced pressure to yield tert-butyl(2-(4-amino-1H-pyrazol-1-yl)ethyl)carbamate as a purple oil which was used in the next step without further purification. LC-MS conditions B: tR=0.35 min, [M+H]+=227.49.

reactant | tert. butyl(2-(4-nitro-1H-pyrazol-1-yl)ethyl)carbamate | 30.75 mmol, 7.88 g | C(C)(C)(C)OC(NCCN1N=CC(=C1)[N+](=O)[O-])=O | C10H16N4O4
catalyst | Pd/C | 788 mg | [Pd] | Pd
solvent | MeOH | 130 mL | CO | CH4O
product | tert-butyl(2-(4-amino-1H-pyrazol-1-yl)ethyl)carbamate | C(C)(C)(C)OC(NCCN1N=CC(=C1)N)=O | C10H18N4O2
